US08309551B2
3-(2-Fluorobenzyl)-1H-indazole
Under argon, 200 mg (0.86 mmol) of 2-iodophenylhydrazine, 133 mg (1.11 mmol) of 2-fluoro-phenylacetylene, 30 mg (0.04 mmol) of bis(triphenylphosphine)palladium(II) chloride and 8 mg (0.04 mmol) of copper(I) iodide are introduced into a mixture of 1.5 ml of triethylamine and 3.5 ml of benzene. The mixture is heated to reflux for 4 h and then diluted with ethyl acetate and filtered. The filtrate is concentrated and the residue is purified by preparative HPLC. 36 mg (18% of theory) of the desired product are obtained.

reactant | 2-iodophenylhydrazine | 0.86 mmol, 200 mg | IC1=C(C=CC=C1)NN | C6H7IN2
reactant | 2-fluoro-phenylacetylene | 1.11 mmol, 133 mg | FC1=C(C=CC=C1)C#C | C8H5F
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | benzene | 3.5 ml | C1=CC=CC=C1 | C6H6
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.04 mmol, 30 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.04 mmol, 8 mg | [Cu]I
product | 3-(2-Fluorobenzyl)-1H-indazole | FC1=C(CC2=NNC3=CC=CC=C23)C=CC=C1 | C14H11FN2
